US07781436B2
1-Benzyl-4-(5-bromo-2,3-dihydro-benzofuran-7-yl)-1,2,3,6-tetrahydro-pyridine
To a solution of 4-(5-bromo-2,3-dihydro-benzofuran-7-yl)-pyridine in toluene was added benzyl bromide (1 eq.) and the reaction mixture was stirred under reflux for 14 h. Reaction was monitored by TLC (CH2Cl2/MeOH 95:5) and revealed total conversion to an intermediate. Complete evaporation of the solvent gave a white solid. The solid was dissolved in MeOH under argon and cooled down to 0° C., NaBH4 (2.05 eq.) was added portion-wise (exothermic reaction) and the reaction mixture was stirred for 3 h at RT. Evaporation of MeOH, redissolution in CH2Cl2 and sequential washing with 1N NaHCO3 and brine, followed by purification by SiO2 gel chromatography (CH2Cl2/MeOH: 98/2) gave 71% yield of the tide compound.

reactant | 4-(5-bromo-2,3-dihydro-benzofuran-7-yl)-pyridine | BrC=1C=C(C2=C(CCO2)C1)C1=CC=NC=C1 | C13H10BrNO
reactant | benzyl bromide | 1 eq. | C(C1=CC=CC=C1)Br | C7H7Br
reactant | CH2Cl2 MeOH | C(Cl)Cl.CO
reactant | NaBH4 | 2.05 eq. | [BH4-].[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
product | 1-Benzyl-4-(5-bromo-2,3-dihydro-benzofuran-7-yl)-1,2,3,6-tetrahydro-pyridine | 71% yield | C(C1=CC=CC=C1)N1CCC(=CC1)C1=CC(=CC=2CCOC21)Br | C20H20BrNO
